US04941909
103 g of chlorodifluoromethane are conducted into a suspension of 145.0 g of isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-4-methyl-1(2H)-pyrimidinyl]-benzoate and 59.0 g of anhydrous, finely powdered potassium carbonate in 1 l of dimethylformamide for 6 hours while stirring at 80° C. After cooling the solid constituent is filtered off under suction and rinsed with 100 ml of dimethylformamide. The filtrate is concentrated to a large extent under reduced pressure at 55° C., the residue is poured into 2 l of water and the aqueous mixture is adjusted to pH 3 with concentrated hydrochloric acid. The mixture is extracted with 1.5 l of ethyl acetate and the organic phase is washed twice with 1 l of water each time. dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The resinous residue is purified by chromatography on a silica gel column using ethyl acetate/n-hexane (1:1) as the eluent. The product is dissolved in 1500 ml of hot n-hexane and the solution is treated with charcoal, filtered and concentrated to 700 ml at an elevated temperature. It is subsequently seeded and cooled to 5° C. while stirring. The resulting crystals are filtered off under suction, washed with n-hexane and dried. There is obtained isopropyl 2-chloro-5-[3-difluoromethyl-3,6-dihydro-2,6-dioxo-4-methyl-1(2H)-pyrimidinyl]-4-fluorobenzoate, m.p. 90°-93° C.

reactant | chlorodifluoromethane | 103 g | ClC(F)F | CHClF2
reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-2,6-dioxo-4-methyl-1(2H)-pyrimidinyl]-benzoate | 145.0 g | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=CC1=O)C)=O | C15H14ClFN2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-5-[3-difluoromethyl-3,6-dihydro-2,6-dioxo-4-methyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C)C(F)F)=O | C16H14ClF3N2O4
